US04719054
At 0° C., acetylene is introduced for 15 minutes into a solution of 40 ml of n-butyllithium (15% in hexane) in 100 ml of absolute tetrahydrofuran and then 4.0 g of 3-methoxy-18-methyl-3,5,15-estratrien-17-one in 40 ml of tetrahydrofuran is added dropwise thereto. After 15 minutes, the mixture is combined with 8 ml of water, 40 ml of methanol and 8 g of oxalic acid, stirred for one hour at 60° C., 600 ml of water is added, and the mixture is extracted with ethyl acetate. The organic phase is washed with water and dried. Recrystallization from ethyl acetate yields 2.4 g of 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one. Melting point 197° C.

reactant | acetylene | C#C | C2H2
reactant | n-butyllithium | 40 ml | C(CCC)[Li]
reactant | 3-methoxy-18-methyl-3,5,15-estratrien-17-one | 4.0 g | COC1=CC2=CC[C@H]3[C@@H]4C=CC([C@@]4(CC)CC[C@@H]3[C@H]2CC1)=O | C20H26O2
reactant | oxalic acid | 8 g | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 600 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 17α-ethynyl-17β-hydroxy-18-methyl-4,15-estradien-3-one | 2.4 g | C(#C)[C@]1([C@]2(CC)[C@@H](C=C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C21H26O2
